US04024164
2-Benzoyloxyethyl laurate
To 16 grams (0.1 mole) of ethylene glycol monobenzoate containing 20 gms (0.25 mole) of pyridine was added 22 gms (0.1 mole) of lauroyl chloride with stirring. With the final addition of lauroyl chloride approximately 50 ml of benzene was added and the mixture stirred for 1 hour. The pyridine hydrochloride was filtered off and the product water washed to remove residual pyridine. The benzene solution was dried over anhydrous sodium sulfate and percolated through a column filled with activated alumina to removal residual free acid. The solvent was removed at reduced pressure. The product, 2-benzoyloxyethyl laurate, was characterized on the basis of the chemical shifts in the NMR spectrum and the absence of OH-stretching and other bands associated with reaction byproducts or impurities.

reactant | ethylene glycol monobenzoate | 0.1 mole, 16 grams | C(C1=CC=CC=C1)(=O)OCCO | C9H10O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | lauroyl chloride | 0.1 mole, 22 gms | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | lauroyl chloride | approximately 50 ml | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-Benzoyloxyethyl laurate | C(CCCCCCCCCCC)(=O)OCCOC(C1=CC=CC=C1)=O | C21H32O4
